US03993677
A solution of 1,2,3,4-Tetrahydro-4-oxo-1-naphthylisocyanate (5.0 g) in tetrahydrofuran is added to a rapidly stirred aqueous concentrated ammonium hydroxide solution (excess) to afford 1,2,3,4-tetrahydro-4-oxo-1-naphthylurea.

reactant | 1,2,3,4-Tetrahydro-4-oxo-1-naphthylisocyanate | 5.0 g | O=C1CCC(C2=CC=CC=C12)N=C=O | C11H9NO2
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1,2,3,4-tetrahydro-4-oxo-1-naphthylurea | O=C1CCC(C2=CC=CC=C12)NC(=O)N | C11H12N2O2
